US07807672B2
Preparation of piperidin-4-yl-(4-pyrimidin-2-yl-phenyl)-amine hydrochloride
Stirred 4-(4-Pyrimidin-2-yl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (110 mg, 0.310 mmol) in 4M HCl (20 ml) at room temperature for 1 hour. Solvent was evaporated yielding desired product piperidin-4-yl-(4-pyrimidin-2-yl-phenyl)-amine, hydrochloride (114 mg).

reactant | 4-(4-Pyrimidin-2-yl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.310 mmol, 110 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)C1=NC=CC=N1 | C20H26N4O2
reactant | HCl | 4M, 20 ml | Cl | ClH
product | piperidin-4-yl-(4-pyrimidin-2-yl-phenyl)-amine, hydrochloride | 114 mg | Cl.N1CCC(CC1)NC1=CC=C(C=C1)C1=NC=CC=N1 | InChI=1S/C15H18N4.ClH/c1-8-17-15(18-9-1)12-2-4-13(5-3-12)19-14-6-10-16-11-7-14;/h1-5,8-9,14,16,19H,6-7,10-11H2;1H
